* source ISRC
R_R4         N01004 N01079  100k  
V_V4         N00558 0 2.5
X_U1         N00558 0 N00189 N00229 N00769 N00284 N01476 N01433 AD620/AD
X_U2         N01079 N00284 N000972 0 N00284 OPA336/BB
R_R2         N00866 N01004  100k  
R_R1         N00769 N00866  100k  
V_V1         N00189 0 15
R_R5         N01433 N01476  10M  
R_R3         N01004 N01079  100k  
V_V3         N000972 0 5
V_V2         0 N00229 15
